datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(C)(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC(C)(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>CC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CC[N:10]1[C@H](C)[C@@H]1C.O=C(C[N+](=O)[O-])[O:21][H:20]>>CC[N+:10]1([H:20])[C@H](C)[C@@H]1C.O=C(C[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"COCCSC(C)[O-:10].C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20]>>COCCSC(C)[O:10][H:20].C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(C)[n+:21]([H:20])c(Nc2ccc(Cl)cc2)n1.[NH3+][C@H]1CCCC[C@@H]1[NH2:10]>>CC[NH+](CC)CCNc1cc(C)[n:21]c(Nc2ccc(Cl)cc2)n1.[NH3+][C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(CO[NH2+:21][H:20])cc1.O=C1CNC(=O)C(CCC(=O)[O-:10])N1>>Cc1ccc(CO[NH2:21])cc1.O=C1CNC(=O)C(CCC(=O)[O:10][H:20])N1 10=20;20,21=21",
"C#CC#CC=C=CC(O)CCC(=O)[O:21][H:20].c1cc(C2CCCCN2)c[n:10]c1>>C#CC#CC=C=CC(O)CCC(=O)[O-:21].c1cc(C2CCCCN2)c[n+:10]([H:20])c1 10=20;20,21=21",
"Nc1cccc2c1ncc[n+:21]2[H:20].O=C(Cc1cc[n:10]cc1)c1ccccc1>>Nc1cccc2c1ncc[n:21]2.O=C(Cc1cc[n+:10]([H:20])cc1)c1ccccc1 10=20;20,21=21",
"CCC[NH:10]CC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC[NH+:10](CC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCCC[NH2+]CCC(N)=[N+:21](O)[H:20].Nc1ccc2c(N)c3ccccc3[n:10]c2c1>>CCCC[NH2+]CCC(N)=[N:21]O.Nc1ccc2c(N)c3ccccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"Cc1ccc(C[NH2:10])cc1N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(C[NH2+:10][H:20])cc1N.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccccc1/C=C/C(=O)[O:21][H:20].Cc1nc([N-:10][N+](=O)[O-])n[nH]1>>Cc1ccccc1/C=C/C(=O)[O-:21].Cc1nc([N:10]([N+](=O)[O-])[H:20])n[nH]1 10=20;20,21=21",
"CC(O)=[O+:21][H:20].[NH3+]C(Cc1nc[n-:10]n1)C(=O)[O-]>>CC(O)=[O:21].[NH3+]C(Cc1nc[n:10]([H:20])n1)C(=O)[O-] 10=20;20,21=21",
"CCCCN(C(=O)c1cccc([O-:10])c1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCN(C(=O)c1cccc([O:10][H:20])c1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)Cc1cccc[n:10]1.CN(C)c1ccc[n+:21]([H:20])c1>>CCOC(=O)Cc1cccc[n+:10]1[H:20].CN(C)c1ccc[n:21]c1 10=20;20,21=21",
"O=Cc1cc(Br)cc([N+](=O)[O-])c1[O:21][H:20].Oc1ccccc1C[NH2:10]>>O=Cc1cc(Br)cc([N+](=O)[O-])c1[O-:21].Oc1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"O=C1c2cccc([N+](=O)[O-])c2C(=O)[N:21]1[H:20].[NH3+]CCC(=O)NCCc1c[nH]c[n:10]1>>O=C1c2cccc([N+](=O)[O-])c2C(=O)[N-:21]1.[NH3+]CCC(=O)NCCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCc1ccccc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)CP(=O)(CC(C)C)[O-:10].Nc1oc2c([n+:21]1[H:20])CCCC2>>CC(C)CP(=O)(CC(C)C)[O:10][H:20].Nc1oc2c([n:21]1)CCCC2 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].O=C(O)c1cccc([OH+:21][H:20])c1>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].O=C(O)c1cccc([OH:21])c1 10=20;20,21=21",
"CC(C)(C)N(C(=O)c1ccccc1)[O-:10].Nc1cc([NH2+:21][H:20])ccc1[NH3+]>>CC(C)(C)N(C(=O)c1ccccc1)[O:10][H:20].Nc1cc([NH2:21])ccc1[NH3+] 10=20;20,21=21",
"C=CC[NH:10]CCCCCCCCCCC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=CC[NH+:10](CCCCCCCCCCC(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C(c1cc2ccccc2s1)[O-:10].c1cnc2c(c1)ccc1c3c(c[n+:21]([H:20])c12)CCC3>>O=C(c1cc2ccccc2s1)[O:10][H:20].c1cnc2c(c1)ccc1c3c(c[n:21]c12)CCC3 10=20;20,21=21",
"CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S-:10].c1ccc(-c2cc(-c3ccccc3)c(NCC[N+:21]3([H:20])CCOCC3)nn2)cc1>>CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S:10][H:20].c1ccc(-c2cc(-c3ccccc3)c(NCC[N:21]3CCOCC3)nn2)cc1 10=20;20,21=21",
"Cc1ccc(S(=N)(c2ccccc2)=[NH+:21][H:20])cc1.O=[N+]([O-])c1cccc2c[n:10]ccc12>>Cc1ccc(S(=N)(c2ccccc2)=[NH:21])cc1.O=[N+]([O-])c1cccc2c[n+:10]([H:20])ccc12 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].Cc1ccc(C(=S)[N-:10]c2ccc(Cl)c(Cl)c2)cc1>>CCCCCCCCCC[N:21](CC(O)CC)CC(O)CC.Cc1ccc(C(=S)[N:10](c2ccc(Cl)c(Cl)c2)[H:20])cc1 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>COCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-:10].O=C(c1ccco1)[O:21][H:20]>>O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O:10][H:20].O=C(c1ccco1)[O-:21] 10=20;20,21=21",
"OCC(C[S-])[S-:10].[Se-]CC[NH2+:21][H:20]>>OCC(C[S-])[S:10][H:20].[Se-]CC[NH2:21] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N:21](C(CC(N)=O)C(=O)[O-])[H:20])cc1.O[C@H]1CCC[C@H]1[NH2:10]>>Cc1ccc(S(=O)(=O)[N-:21]C(CC(N)=O)C(=O)[O-])cc1.O[C@H]1CCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C(O)c1ccccc1)[N:10](C)C.CC(C)(C#N)CC(=O)[O:21][H:20]>>CC(C(O)c1ccccc1)[N+:10](C)(C)[H:20].CC(C)(C#N)CC(=O)[O-:21] 10=20;20,21=21",
